US07795236B2
tert-Butyl N-(3′-hydroxybiphenyl-4-ylmethyl)carbamate
To a solution of tert-butyl N-(3′-bezyloxy-biphenyl-4-ylmethyl)carbamate (1.16 g) in ethanol/tetrahydrofuran (4/1, 30 mL) was added 10% palladium-on carbon (55.4 wt % H2O, 0.520 g), and the resulting mixture was stirred at 30° C. for 5 hours under a hydrogen atmosphere. The insoluble material was filtered out and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/2) to give the title compound (0.731 g).

reactant | tert-butyl N-(3′-bezyloxy-biphenyl-4-ylmethyl)carbamate | 1.16 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC=C(C=C1)CNC(OC(C)(C)C)=O | C25H27NO3
solvent | ethanol tetrahydrofuran | 30 mL | C(C)O.O1CCCC1
catalyst | palladium-on carbon | 0.520 g | [Pd] | Pd
product | tert-Butyl N-(3′-hydroxybiphenyl-4-ylmethyl)carbamate | 0.731 g | OC=1C=C(C=CC1)C1=CC=C(C=C1)CNC(OC(C)(C)C)=O | C18H21NO3
